US07342138B2
In a 50 ml three-necked flask equipped with a magnetic stirrer, a reflux condenser and a thermometer, 4.28 g (20 mmols) of 4,4′-bishydroxymethylbiphenyl and 10 ml of (166 mmols) of acetic acid were charged, followed by heating to 75° C. An aqueous solution prepared by dissolving 2.04 g (13.5 mmols) of sodium bromate in 10 ml of water was added dropwise, and then the mixture was stirred at 75° C. until a color of bromine disappears. To the system, 50 ml of water was added and, after filtration, the resulting substance was dried to obtain 4.25 g of 4,4′-bisformylbiphenyl as a white crystal. Yield: 99.9%. It was confirmed by GS-MS that a molecular ion peak is 209.

reactant | 4,4′-bishydroxymethylbiphenyl | 20 mmols, 4.28 g | OCC1=CC=C(C=C1)C1=CC=C(C=C1)CO | C14H14O2
reactant | acetic acid | 166 mmols, 10 ml | C(C)(=O)O | C2H4O2
reactant | sodium bromate | 13.5 mmols, 2.04 g | Br(=O)(=O)[O-].[Na+]
reactant | bromine | BrBr | Br2
solvent | water | 10 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 4,4′-bisformylbiphenyl | 4.25 g, Yield: 99.9% | C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C14H10O2
